US04880808
A mixture of 7 parts of 4-[5,5-bis(4-fluorophenyl)pentyl]-2-piperazinecarboxamide, 6.6 parts of (1,1-dimethylethyl) [[3,5-dichloro-4-[(2-chloroacetyl)amino]phenyl]methyl]carbamate, 2.8 parts of N,N-diethylethanamine and 94 parts of N,N-dimethylformamide was stirred over weekend at 70° C. The reaction mixture was evaporated and the residue was taken up in water. The product was extracted twice with dichloromethane. The combined extracts were washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (96:4 by volume) as eluent. The desired fractions were collected and the eluent was evaporated, yielding 8.7 parts (80.7%) of (1,1-dimethylethyl) [[4-[[2-[2-(aminocarbonyl)-4-[5,5-bis(4-fluorophenyl)pentyl]-1-piperazinyl]acetyl]amino]-3,5-dichlorophenyl]methyl]carbamate as a residue (int. 102).

reactant | 4-[5,5-bis(4-fluorophenyl)pentyl]-2-piperazinecarboxamide | FC1=CC=C(C=C1)C(CCCCN1CC(NCC1)C(=O)N)C1=CC=C(C=C1)F | C22H27F2N3O
reactant | (1,1-dimethylethyl) [[3,5-dichloro-4-[(2-chloroacetyl)amino]phenyl]methyl]carbamate | ClC=1C=C(C=C(C1NC(CCl)=O)Cl)CNC(OC(C)(C)C)=O | C14H17Cl3N2O3
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (1,1-dimethylethyl) [[4-[[2-[2-(aminocarbonyl)-4-[5,5-bis(4-fluorophenyl)pentyl]-1-piperazinyl]acetyl]amino]-3,5-dichlorophenyl]methyl]carbamate | 80.7% | NC(=O)C1N(CCN(C1)CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)CC(=O)NC1=C(C=C(C=C1Cl)CNC(OC(C)(C)C)=O)Cl | C36H43Cl2F2N5O4
